US06380218B1
N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-[3-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenoxy]nicotinamide
To a stirred solution of N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-[3-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenoxy]-nicotinic acid (0.400 grams, 1.28 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.232 grams, 1.40 mmole), and 1-hydroxybenzotriazole hydrate (0.189 grams, 1.40 mmole) in dry dimethylformamide (5 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.294 grams, 1.54 mmole) and stirred over night. The mixture poured into 100 ml water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica gel eluting with 2.5% methanol/methylene chloride (0.550 g). 1H NMR (CDCl3) d 1.54 (6H, s), 3.53 (1H, d), 4.66 (2H, d), 4.92 (1H, m), 7.46-7.15 (9H, m), 8.12 (1H, m), 8.16 (1H, dd) 8.62 (1H, dd). MW 313.25 MS (m/e) 313 (M+).

reactant | N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-[3-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenoxy]-nicotinic acid | 1.28 mmole, 0.400 grams | OC(C)(C)C1=CC=C(CN2C(C(C(=O)O)=CC=C2)OC2=CC(=CC=C2)C(C(F)(F)F)O)C=C1 | C24H24F3NO5
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 1.40 mmole, 0.232 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 1.40 mmole, 0.189 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.54 mmole, 0.294 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-[3-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenoxy]nicotinamide | OC(C)(C)C1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC(=CC=C2)C(C(F)(F)F)O)=O)C=C1 | C24H23F3N2O4
